US04011225
2-phenyl-5,6,7,8-Tetrahydroquinoline-8-carboxamide.
Methyl-2-phenyl-5,6,7,8-tetrahydroquinoline-8-carboxylate (4 g.) was dissolved in methanol previously saturated with ammonia (90 ml.) and heated in a bomb at 100° C for 4 days. Removal of the solvent in vacuo gave an oily solid which on recrystallisation from ethyl acetate gave the title compound as colourless needles (1.5 g.) mp 145° C. Found: C, 76.4; H, 6.5; N, 11.1% C16H16N2O requires: C, 76.2; H, 6.4; N, 11.1%.

reactant | Methyl-2-phenyl-5,6,7,8-tetrahydroquinoline-8-carboxylate | 4 g | COC(=O)C1CCCC=2C=CC(=NC12)C1=CC=CC=C1 | C17H17NO2
reactant | ammonia | 90 ml | N | H3N
solvent | methanol | CO | CH4O
product | 2-phenyl-5,6,7,8-Tetrahydroquinoline-8-carboxamide | 1.5 g | C1(=CC=CC=C1)C1=NC=2C(CCCC2C=C1)C(=O)N | C16H16N2O
